US07858640B2
[3-(2,4-difluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid
A solution of [3-(2,4-difluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.20 g), methanol (10 mL), water (0.8 mL) and 5.0 M aqueous sodium hydroxide solution (0.4 mL) was stirred at room temperature for 2 hour. The pH of the mixture was adjusted to 5 by the addition of glacial acetic acid and the solvent removed under reduced pressure. The residue was diluted with water and the solid collected by filtration, washed with water and dried to afford title compound as a white solid, 0.030 g.

reactant | [3-(2,4-difluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.20 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=C(C=C(C=C1)F)F)C)=O | C21H16F5NO4
reactant | methanol | 10 mL | CO | CH4O
reactant | water | 0.8 mL | O | H2O
reactant | sodium hydroxide | 5.0 M, 0.4 mL | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [3-(2,4-difluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid | FC1=C(CC=2C(=NC3=C(C=CC(=C3C2C)OCC(=O)O)F)OC(F)F)C=CC(=C1)F | C20H14F5NO4
